US08664401B2
Step A) Ethyl 4-(tetrahydro-2H-pyran-2-yloxy)cyclohexanecarboxylate
Pyridinium-4-toluenesulfonate (2.57 g, 10.2 mmol) was added to a solution of ethyl 4-hydroxycyclohexanecarboxylate (8.8 g, 51.10 mmol) and 3,4-dihydro-2H-pyran (8.60 g, 102 mmol) in DCM (200 mL). After 16 hours the reaction was quenched with saturated aqueous sodium bicarbonate. The layers were separated and the organic layer was washed with water. The organic layer was dried (Na2SO4), filtered and concentrated. Purification by flash column chromatography on an Analogix SF65-200 g column (hexanes/ethyl acetate 95:05-9:1) afforded the title compound (clear oil) as a mixture of isomers (11.1 g, 85%).

reactant | Pyridinium 4-toluenesulfonate | 10.2 mmol, 2.57 g | [NH+]1=CC=CC=C1.C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | ethyl 4-hydroxycyclohexanecarboxylate | 51.10 mmol, 8.8 g | OC1CCC(CC1)C(=O)OCC | C9H16O3
reactant | 3,4-dihydro-2H-pyran | 102 mmol, 8.60 g | O1CCCC=C1 | C5H8O
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 4-(tetrahydro-2H-pyran-2-yloxy)cyclohexanecarboxylate | O1C(CCCC1)OC1CCC(CC1)C(=O)OCC | C14H24O4
